USRE030495
Preparation of 1(3'-Isopropylthiocarbamylphenyl) 3-methyl urea
Eleven and one-half grams of 1(3'-amino phenyl)3-methyl urea is dissolved in 100 ml. of acetone and 7.1 g. of triethylamine added. Isopropyl chlorothiolformate, 9.7 g., is added dropwise with stirring and when reaction is complete, the mixture is poured into approximately 500 ml. of cold water. The product is recovered by filtration and washed with dilute NaOH, dilute HCl, water and dried in the vacuum oven. There is obtained 16 g., m.p. 175°-178° C., of the title compound.

reactant | 1(3'-amino phenyl)3-methyl urea | NC=1C=C(C=CC1)NC(=O)NC | C8H11N3O
reactant | acetone | CC(=O)C | C3H6O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Isopropyl chlorothiolformate | ClC1=C(SC=C1)C(=O)OC(C)C | C8H9ClO2S
solvent | water | O | H2O
product | 1(3'-Isopropylthiocarbamylphenyl) 3-methyl urea | C(C)(C)NC(=S)C=1C=C(C=CC1)NC(=O)NC | C12H17N3OS
